US04226775
1-[3-Acetylthio-3-(3-fluoro-4-methoxybenzoyl)propionyl]-L-proline
As described in Example 15, the preceding compound is converted to 3-(3-fluoro-4-methoxybenzoyl)propionic acid, hydroxysuccinimide ester and coupled to L-proline as in Example 16. The 1-[3-(3-fluoro-4-methoxybenzoyl)propionyl]-L-proline m.p. 180°-182° C. is brominated as in Example 20 and the product reacted with potassium thioacetate in ethanol-water as in Example 21 to give the product of the Example as a glass.

reactant | 3-(3-fluoro-4-methoxybenzoyl)propionic acid | FC=1C=C(C(=O)CCC(=O)O)C=CC1OC | C11H11FO4
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1-[3-(3-fluoro-4-methoxybenzoyl)propionyl]-L-proline | FC=1C=C(C(=O)CCC(=O)N2[C@H](C(=O)O)CCC2)C=CC1OC | C16H18FNO5
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
solvent | ethanol water | C(C)O.O
product | 1-[3-Acetylthio-3-(3-fluoro-4-methoxybenzoyl)propionyl]-L-proline | C(C)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CC(=C(C=C1)OC)F)=O | C18H20FNO6S
